US07179823B1
A mixture of 5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethanol (1.33 g) and thionyl chloride (4 ml) was stirred at room temperature for 1 hour. After the reaction mixture was concentrated, saturated aqueous sodium bicarbonate solution was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain 3-chloromethyl-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine (911 mg, yield 64%) as colorless crystals from the fraction eluted with tetrahydrofuran-hexane (1:1, volume ratio). This was recrystallized from tetrahydrofuran-hexane. Melting point: 98–99° C.

reactant | 5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethanol | 1.33 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=NC1)CO | C17H16N2O3
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chloromethyl-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine | 911 mg, yield 64% | ClCC=1C=NC=C(C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15ClN2O2
